US08278335B2
Step 1. 4-Bromo-1-(diethoxymethyl)-2-fluorobenzene
The title compound was prepared as described in Example 15, Step 2 using 4-bromo-2-fluorobenzaldehyde (102 g, 0.5 mol), triethylorthoformate (88.8 g, 0.6 mol), and PPTS (2.52 g, 0.05 mol) as starting materials. 1H NMR (400 MHz, CDCl3): δ 7.41 (d, 1H), 7.21 (d, 1H), 7.14 (d, 1H), 5.60 (s, 1H), 3.68 (q, 2H), 3.49 (q, 2H), 1.17 (t, 6H).

reactant | 4-bromo-2-fluorobenzaldehyde | 0.5 mol, 102 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | triethylorthoformate | 0.6 mol, 88.8 g | C(C)OC(OCC)OCC | C7H16O3
reactant | PPTS | 0.05 mol, 2.52 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
product | 4-Bromo-1-(diethoxymethyl)-2-fluorobenzene | BrC1=CC(=C(C=C1)C(OCC)OCC)F | C11H14BrFO2
